Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ with CAD, COPD, HTN/HLD, presented with acute onset chest
pain, found to have anterior STEMI. 

Pt was at day care facility and developed sudden onset chest 
pain
and SOB. EMS called and found to be cool and diaphoretic. Given
full dose ASA, nitro x3 with improvement in BP. She had
significant dyspnea as well, and was placed on CPAP with
improvement.

Upon arrival ST elevations in V4-V6 concerning for STEMI. Code
STEMI activated. Interventional fellow spoke to family and
ultimately it was decided not to proceed with cath given risks 
at
her age and preferred medical management but the family did
reverse her DNR to make her a full code.  

Per discussion with the patient's daughter, they would not like
any invasive procedures. It seems the family did not quite
understand how invasive CPR would be, and she will discuss with
the rest of her family whether they want her to be full code. At
baseline, the patient is alert to self and situation, but not to
time.

Also of note, patient has been having subacute dyspnea recently.
She was started on lasix 20mg, then started on prednisone 5mg 
qAM
with improvement, and was instructed to stop her lasix 20mg.

In the ED,  
- Initial vitals were: 97.6 ___ 28 100% Cpap  
- Labs notable for: WBC 12.3, PLTs 191, INR 1.0, SCr 1.3, 
lactate
3.0, venous gas pH 7.29 CO2 48, BNP 3K, trop 0.03-->0.29-->1.96
(over ~12 hours). 

EKG: sinus with STE V2-V5 and TWI V2-V6 and I/aVL
CXR with bilateral congestion worse in lower lung fields  
- Patient was given: asa load, nitro gtt, hep gtt, Lasix 40. Pt
eventually received Plavix load as well, however this was not
until ~___.

While in the ED, she was weaned off CPAP onto room air. She had
one <10 second run of NSVT. 
 
ROS: Positive per HPI. Remaining 10 point ROS reviewed and
negative.  
 
Past Medical History:
- Asthma: diagnosed at age ___, but reports since moving to ___ 
___ years ago has had asthma symptoms; hard to interpret PFTs as 
she was unable to participate in the exam; 5 lifetime 
hospitalizations, most recently ___ for COPD exacerbation; 
no history of intubations or MICU admissions 
- CAD s/p PCI to LCx and RCA ___ and subsequent NSTEMI in ___ 
and ___ 
- Hypertension  
- HLD
- Constipation
- Peripheral vascular disease with infrapopliteal disease 
- Adjustment disorder with depressed mood  
- s/p L eye cataract surgery (R eye ___ at ___)  
- s/p L eye cataract surgery ___  
 
Social History:
___
Family History:
Significant family history of asthma (two sons, daughter, and 
grand-daughter). Per ___. She does not know the family history 
of her parents. Her mother died two days after she was born and 
she never knew her father. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:

GENERAL: Lying in bed, appears in some pain.   
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 

NECK: Supple, no JVD.
CARDIAC: Distant heart sounds. Normal rate, regular rhythm. No
murmurs, rubs, or gallops.  
LUNGS: Decreased breath sounds throughout, without w/r/r  
ABDOMEN: Soft, non-tender, non-distended. No palpable
hepatomegaly or splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
NEURO: No focal deficits, moving all extremities spontaneously.
Alert to self, situation, not time.

DISCHARGE PHYSICAL EXAM:
GENERAL: Lying in bed, in NAD
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI.
NECK: Supple, JVP flat
CARDIAC: Distant heart sounds. Irregular rhythm. No murmurs,
rubs, or gallops.
LUNGS: Clear to auscultation bilaterally.
ABDOMEN: Soft, non-tender, non-distended
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.
SKIN: No significant lesions or rashes.
PULSES: Distal pulses palpable and symmetric.  
NEURO: Oriented to self and place but not to time. Moving all
extremities spontaneously.
 
Pertinent Results:
ADMISSION LABS:
___ 09:24AM BLOOD WBC-12.8* RBC-4.42 Hgb-13.9 Hct-41.2 
MCV-93 MCH-31.4 MCHC-33.7 RDW-13.2 RDWSD-44.9 Plt ___
___ 09:24AM BLOOD ___ PTT-23.1* ___
___ 04:15PM BLOOD Glucose-285* UreaN-19 Creat-1.2* Na-136 
K-4.3 Cl-97 HCO3-24 AnGap-15
___ 09:24AM BLOOD CK(CPK)-202*
___ 09:24AM BLOOD CK-MB-8 proBNP-3049*
___ 10:28PM BLOOD CK-MB-117* MB Indx-11.9* cTropnT-4.75*

STUDIES:
There is normal left ventricular wall thickness with a normal 
cavity size. There is moderate regional left ventricular 
systolic dysfunction with
dyskinesis of the apex and akinesis of anteroapical segments. 
The inferolateral wall is thinned and akinetic (see schematic). 
No thrombus or mass is seen in the left ventricle. The visually 
estimated left
ventricular ejection fraction is 35-40% (biplane calculates at 
40%, but doesnt account ofr inferolateral wall). There is no 
resting left ventricular outflow tract gradient. Normal right 
ventricular cavity size with focal hypokinesis of the apical 
free wall. There is mild pulmonary artery systolic hypertension.

IMPRESSION: Moderate regional left ventricular systolic 
dysfunction c/w prior LCx territory infarction and superimposed 
LAD territory iscehmia/infarct. No thrombus visualized (echo 
contrast not
used). Compared with the prior TTE ___ the LAD territory 
dysfunction is new. The inferolateral wall is now akinetc. 
Global left ventricular systolic function is reduced.

DISCHARGE LABS:
___ 06:07AM BLOOD WBC-5.7 RBC-4.10 Hgb-12.7 Hct-37.5 MCV-92 
MCH-31.0 MCHC-33.9 RDW-13.4 RDWSD-44.2 Plt ___
___ 06:07AM BLOOD ___ PTT-41.1* ___
___ 06:07AM BLOOD Glucose-121* UreaN-22* Creat-1.2* Na-131* 
K-5.1 Cl-99 HCO3-17* AnGap-15
___ 06:07AM BLOOD Calcium-8.5 Phos-3.5 Mg-2.___ year old woman with CAD complicated by inferior myocardial 
infarction status post percutaneous coronary intervention + 
stents to the right coronary artery and left circumflex artery 
in ___, NSTEMI in ___ and ___, HTN, HLD, peripheral vascular 
disease, COPD not on home O2, who presents with 
anterolateral/apical STEMI with apical akinesis and new systolic 
heart failure.

ACUTE ISSUES:
=============
#STEMI
On the day of admission, Ms. ___ was at her day care 
facility when she developed acute-onset exertional chest pain 
and shortness of breath. EMS was called, and she was transported 
to the ___ ED, where EKG showed ST elevations in V3-V6 
suggestive of a medial to distal LAD occlusion. Troponins peaked 
at 4.75. A code STEMI was activated. Based on Ms. ___ age 
and the risks associated with PCI, the decision was made with 
the patient and her family to defer cardiac cath and optimize 
medical management. She was started on anti-ischemic therapy 
encompassing aspirin/clopidogrel/heparin gtt bridged to 
warfarin. In order to mitigate the risk of bleeding, aspirin was 
discontinued once her INR was therapeutic. She was discharged on 
clopidogrel 75 mg daily and warfarin 2.5 mg daily (see below), 
as well as atorvastatin 80 mg daily, imdur 60 mg daily, 
metoprolol succinate 100 mg daily, and lisinopril 5 mg daily.

#Anteroapical akinesis ___ STEMI
TTE status post STEMI showed moderate left ventricular systolic 
dysfunction with apical dyskinesis, anteroapical segmental 
akinesis, and inferior wall akinesis (no evidence of thrombus). 
Prophylactic anticoagulation was started to prevent left 
ventricular thrombus formation. The patient was bridged to 
warfarin on heparin. She was discharged on warfarin 2.5 mg daily 
with a goal INR of ___ her discharge INR was 3.0.

#New systolic heart failure
Admission TTE showed moderate left ventricular systolic 
dysfunction with an LVEF 35-40%. The patient remained euvolemic 
on exam throughout her hospital course, so a diuretic was 
deferred at discharge. She was discharged on lisinopril, imdur, 
and metoprolol as above.

#COPD
Ms. ___ did not require supplemental oxygen during her 
hospital course, and her pulmonary exam remained stable without 
wheezing. Prednisone was discontinued in the setting of recent 
STEMI (concern for increased risk of myocardial rupture), and 
she did not report worsening shortness of breath. She was 
continued on home standing duonebs and Advair and PRN albuterol.

CHRONIC ISSUES:  
===============
#HTN, well-controlled: continued lisinopril and metoprolol

#Thrombocytopenia: remained stable, no intervention needed

#Peripheral neuropathy: continued gabapentin

#Insomnia: continued mirtazapine 

TRANSITIONAL ISSUES:
====================
[] Please obtain INR on ___ and on an ongoing basis. Please fax 
results to Dr. ___ at  ___. If INR is <2 or >3, 
please call PCP ___ at ___.
[] Plan to continue warfarin and Plavix on discharge; consider 
repeating TTE in 3 months for evaluation of left ventricular 
thrombus and transitioning to dual anti-platelet therapy with 
aspirin and Plavix only if echo is clear.
[] Please repeat chem-7 + Mg at next appointment and address any 
electrolyte abnormalities.

MEDICATION CHANGES:
===================
START clopidogrel 75 mg daily
START lisinopril 5 mg daily
START warfarin 2.5mg daily
INCREASE metoprolol KL to 100mg (previously 50mg)
STOP aspirin 81mg daily
STOP losartan 25mg daily
STOP prednisone 5mg daily

Weight at discharge: 117 lbs
Cr at discharge: 1.2
INR at discharge: 3.0

Contact: ___ (daughter), ___ ___ (granddaughter), 
___ 
DNR/OK to intubate
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 500 mg PO Q8H:PRN Pain - Mild 
2. Atorvastatin 80 mg PO QPM 
3. budesonide 1 mg/2 mL inhalation TID 
4. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID 
5. carboxymethylcellulose sodium 0.25 % ophthalmic (eye) QID 
6. Docusate Sodium 100 mg PO BID 
7. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
8. Gabapentin 300 mg PO QHS 
9. Ipratropium-Albuterol Neb 1 NEB NEB TID 
10. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
11. Losartan Potassium 25 mg PO DAILY 
12. Metoprolol Succinate XL 50 mg PO DAILY 
13. PredniSONE 5 mg PO DAILY 
14. Mirtazapine 15 mg PO QHS 
15. Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain 
16. Aspirin 81 mg PO DAILY 
17. albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN 

 
Discharge Medications:
1.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*90 
Tablet Refills:*0 
2.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0 
3.  Warfarin 2.5 mg PO DAILY16 
RX *warfarin 2.5 mg 1 tablet(s) by mouth daily Disp #*90 Tablet 
Refills:*0 
4.  Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*90 Tablet Refills:*0 
5.  Acetaminophen 500 mg PO Q8H:PRN Pain - Mild  
6.  albuterol sulfate 90 mcg/actuation inhalation Q4H:PRN  
7.  Atorvastatin 80 mg PO QPM  
8.  Budesonide 1 mg/2 mL inhalation TID  
9.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID  
10.  carboxymethylcellulose sodium 0.25 % ophthalmic (eye) QID  
11.  Docusate Sodium 100 mg PO BID  
12.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
13.  Gabapentin 300 mg PO QHS  
14.  Ipratropium-Albuterol Neb 1 NEB NEB TID  
15.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
16.  Mirtazapine 15 mg PO QHS  
17.  Nitroglycerin SL 0.3 mg SL Q5MIN:PRN chest pain  
18. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until you talk with your cardiologist.
19.Outpatient Lab Work
V58.61 : Long-term (current) use of anticoagulants. Please 
obtain INR on ___ and fax results to Dr. ___ at  
___.

 
Discharge Disposition:
Home With Service
 
Facility:
___ 
 
Discharge Diagnosis:
STEMI with apical akinesis
Systolic heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,  

 WHY WAS I IN THE HOSPITAL?  
 ==========================  
 - You were admitted because you had a heart attack  
 
 WHAT HAPPENED IN THE HOSPITAL?  
 ==============================  
  - You were admitted to the hospital because you had chest 
pain. You were found to have had a heart attack. You were given 
medications to prevent future blockages.
 
 WHAT SHOULD I DO WHEN I GO HOME?  
 ================================    
 - It is very important to take your medications every day.
 - These medications help reduce your risk of having a future 
heart attack. One of your medications, called warfarin (or 
Coumadin) also reduces your risk of developing a blood clot that 
can cause a stroke. 
 - Please do not stop taking your medications without talking to 
your heart doctor.
 - These medications that help your heart include atorvastatin, 
clopidogrel (or Plavix), imdur, lisinopril, metoprolol, and as 
mentioned above, warfarin (or Coumadin). 
 - While you were admitted to the hospital, you were also 
treated for a condition called heart failure, where your heart 
does not pump hard enough and fluid can back up into your lungs.
 - Your weight at discharge is 117 lbs. Please weigh yourself 
today at home and use this as your new baseline.
 - Please weigh yourself every day in the morning. Call your 
doctor if your weight goes up by more than 3 lbs.

 Thank you for allowing us to be involved in your care, we wish 
you all the best!  
 Your ___ Healthcare Team  
 
Followup Instructions:
___